US09227975B2
(R)—N-(6-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)imidazo[1,2-b]pyridazin-3-yl)-3-hydroxyazetidine-1-carboxamide
To a DCM (1 mL) solution of (R)-6-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)imidazo[1,2-b]pyridazin-3-amine (Preparation B; 50 mg, 0.16 mmol) was added CDI (39 mg, 0.24 mmol) at ambient temperature in one portion while stirring. After 1 hour stirring, azetidin-3-ol hydrochloride (35 mg, 0.32 mmol) [purchased from Oakwood] was added in one portion, followed by addition of DIEA (83 μL, 0.48 mmol). The reaction mixture was briefly sonicated to help break up the solid particles from azetidine material. After 30 minute stirring at ambient temperature, the reaction was concentrated and directly purified by reverse-phase column chromatography, eluting with 5 to 50% acetonitrile/water to yield the final product as a pale-yellowish solid (65 mg, 99% yield). MS (apci) m/z=415.2 (M+H).

reactant | (R)-6-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)imidazo[1,2-b]pyridazin-3-amine | 0.16 mmol, 50 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C=1C=CC=2N(N1)C(=CN2)N | C16H15F2N5
reactant | CDI | 0.24 mmol, 39 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | azetidin-3-ol hydrochloride | 0.32 mmol, 35 mg | Cl.N1CC(C1)O
reactant | DIEA | 0.48 mmol, 83 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | azetidine | N1CCC1 | C3H7N
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(6-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)imidazo[1,2-b]pyridazin-3-yl)-3-hydroxyazetidine-1-carboxamide | 65 mg, 99% yield | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C=1C=CC=2N(N1)C(=CN2)NC(=O)N2CC(C2)O | C20H20F2N6O2
